US08669234B2
3-[4-(4-Bromo-phenyl)-1H-imidazol-2-yl]-4-(2-methoxycarbonylamino-3-methyl-butyryl)-piperazine-1-carboxylic acid tert-butyl ester (600 mg, 1.06 mmol) was combined with (1-{2-[5-(4-Ethynyl-phenyl)-1H-imidazol-2-yl]-pyrrolidine-1-carbonyl}-2-methyl-propyl)-carbamic acid methyl ester (503 mg, 1.27 mmol) and Pd(PPh3)4 (122 mg, 0.106 mmol) under an argon atmosphere. DMF (degassed with Argon) was added followed by triethylamine (1.47 mL, 10.6 mmol) and copper(I) iodide (20.0 mg, 0.106 mmol). The mixture was heated at 80° C. After 20 minutes, volatiles were removed in vacuo and the crude material was semi-purified via chromatography on silica gel (eluent: EtOAc w MeOH 10%/hexanes) to yield the product 4-(2-Methoxycarbonylamino-3-methyl-butyryl)-3-{-4-[4-(4-{2-[1-(2-methoxycarbonylamino-3-methyl-butyryl)-pyrrolidin-2-yl]-3H-imidazol-4-yl}-phenylethynyl)-phenyl]-1H-imidazol-2-yl}-piperazine-1-carboxylic acid tert-butyl ester (542 mg). LCMS-ESI+: calc'd for C47H59N9O8: 878.0 (M+). Found: 878.5 (M+H+).

reactant | 3-[4-(4-Bromo-phenyl)-1H-imidazol-2-yl]-4-(2-methoxycarbonylamino-3-methyl-butyryl)-piperazine-1-carboxylic acid tert-butyl ester | 1.06 mmol, 600 mg | C(C)(C)(C)OC(=O)N1CC(N(CC1)C(C(C(C)C)NC(=O)OC)=O)C=1NC=C(N1)C1=CC=C(C=C1)Br | C25H34BrN5O5
reactant | (1-{2-[5-(4-Ethynyl-phenyl)-1H-imidazol-2-yl]-pyrrolidine-1-carbonyl}-2-methyl-propyl)-carbamic acid methyl ester | 1.27 mmol, 503 mg | COC(NC(C(C)C)C(=O)N1C(CCC1)C=1NC(=CN1)C1=CC=C(C=C1)C#C)=O | C22H26N4O3
reactant | triethylamine | 10.6 mmol, 1.47 mL | C(C)N(CC)CC | C6H15N
catalyst | Pd(PPh3)4 | 0.106 mmol, 122 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
catalyst | copper(I) iodide | 0.106 mmol, 20.0 mg | [Cu]I
solvent | DMF | CN(C)C=O | C3H7NO
product | 4-(2-Methoxycarbonylamino-3-methyl-butyryl)-3-{-4-[4-(4-{2-[1-(2-methoxycarbonylamino-3-methyl-butyryl)-pyrrolidin-2-yl]-3H-imidazol-4-yl}-phenylethynyl)-phenyl]-1H-imidazol-2-yl}-piperazine-1-carboxylic acid tert-butyl ester | 542 mg | C(C)(C)(C)OC(=O)N1CC(N(CC1)C(C(C(C)C)NC(=O)OC)=O)C=1NC=C(N1)C1=CC=C(C=C1)C#CC1=CC=C(C=C1)C=1NC(=NC1)C1N(CCC1)C(C(C(C)C)NC(=O)OC)=O | C47H59N9O8
